US06423699B1
4-Benzyl-6-(3-chlorophenyl)-3,4-dihydroquinoxalin-2(1H)-one
The title compound was prepared according to the procedure for Example 5 from 4-benzyl-6-bromo-3,4-dihydroquinoxalin-2(1H)-one (1.6 g, 5 mmol), and 3-chlorophenyl boronic acid (0.8 g, 5 mmol). An off-white powder (0.9 g, 51%): m.p. 182-185° C. 1H-NMR (DMSO-d6) δ 3.74 (s, 2H), 4.54 (s, 2H), 6.87 (d, J=0.7 Hz), 7.0 (m, 2H), 7.36 (m, 8H), 7.52 (t, J=1.8 Hz, 1H), 10.57 (s, 1H), MS (ESI) m/z 349 (M+H)+.

reactant | 4-benzyl-6-bromo-3,4-dihydroquinoxalin-2(1H)-one | 5 mmol, 1.6 g | C(C1=CC=CC=C1)N1CC(NC2=CC=C(C=C12)Br)=O | C15H13BrN2O
reactant | 3-chlorophenyl boronic acid | 5 mmol, 0.8 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 4-Benzyl-6-(3-chlorophenyl)-3,4-dihydroquinoxalin-2(1H)-one | C(C1=CC=CC=C1)N1CC(NC2=CC=C(C=C12)C1=CC(=CC=C1)Cl)=O | C21H17ClN2O
